US07723369B2
2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole (382 mg, 1 mmol) was treated as described in general procedure K using 4-nitrobenzyl bromide (432 mg, 2 mmol) to give 2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-1-(4-nitro-benzyl)-1H-imidazole.

reactant | 2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | 1 mmol, 382 mg | BrC1=CC=C(CC=2NC=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C16H11BrCl2N2
reactant | 4-nitrobenzyl bromide | 2 mmol, 432 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-1-(4-nitro-benzyl)-1H-imidazole | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C23H16BrCl2N3O2
